data/mechanism_extracts/ChemCommun/10.1039_D4CC00843J_sup_1.json
{"doi": "10.1039_D4CC00843J_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical oxidative ring-opening/oxidation of arylmethylenecyclopropanes with methanol to give methyl 4-methoxy-4-arylbutanoates via radical cation and cyclopropane ring-opening", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich arylidenecyclopropane alkene to a radical cation; cathode reduces methanol to generate methoxide and H2", "key_intermediates": [{"name": "aryl-stabilized alkene radical cation (I) from 1b", "smiles": "COc1ccc(cc1)[CH+][C]1CC1", "role": "reactive"}, {"name": "benzylic alpha-methoxy cyclopropylcarbinyl radical (II) after MeO- addition", "smiles": "COc1ccc(cc1)C(OC)[C]1CC1", "role": "transient"}, {"name": "ring-opened primary carbon radical / homoallyl-type radical (III) after cyclopropane C-C homolysis", "smiles": "COc1ccc(cc1)C(OC)CC[CH2]", "role": "reactive"}, {"name": "4-aryl-4-methoxybutan-1-ol (IV), detected by GC-MS and HRMS", "smiles": "COc1ccc(cc1)C(OC)CCCO", "role": "transient"}, {"name": "4-aryl-4-methoxybutanal (V), detected by GC-MS and HRMS", "smiles": "COc1ccc(cc1)C(OC)CCC=O", "role": "transient"}, {"name": "acylium cation (VI) from oxidation of aldehyde", "smiles": "COc1ccc(cc1)C(OC)CCC(=O)[+]", "role": "transient"}, {"name": "BHT-adduct of mono-methoxylated cyclopropyl benzylic species (off-cycle trap)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode performs SET oxidation of the styryl-cyclopropane 1b to a radical cation, which is trapped by cathodically generated methoxide; the resulting cyclopropylcarbinyl radical undergoes ring-opening, then a second anodic oxidation and trapping by hydroxide (from adventitious water/D2O) gives a primary alcohol intermediate, which is oxidized to the aldehyde and finally to an acylium that is captured by MeOH to deliver the methyl ester 2b.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Complete shutdown of reaction; starting material unconsumed, indicating a radical pathway"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction shut down; HRMS detected BHT adduct (M+Na 433.2724) corresponding to BHT trapping of mono-methoxylated cyclopropyl benzylic radical/cation, supporting initial SET oxidation of the alkene to a radical cation"}, {"name": "D2O (MeOH/D2O mixed solvent)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Product 2b formed in 58%; intermediate III' bearing -OD on the terminal CH2 detected by GC-MS (base peak 211), confirming that ring-opening of cyclopropane is terminated by hydroxide/OD- from water"}, {"name": "2-(cyclopropylmethyl)-1,3,5-trimethylbenzene (1v)", "smiles": "Cc1cc(C)c(CC2CC2)c(C)c1", "purpose": "radical_clock", "observation": "Electrochemical control experiment to probe cyclopropyl radical-clock behavior"}, {"name": "(cyclopropylidenemethyl)cyclohexane (1w)", "smiles": "C1CCC(=C2CC2)CC1", "purpose": "radical_clock", "observation": "Used to test substrate scope of radical ring-opening with non-aryl methylenecyclopropane"}, {"name": "Isolated intermediate III (4-aryl-4-methoxybutan-1-ol)", "smiles": "COc1ccc(cc1)C(OC)CCCO", "purpose": "intermediate_trap", "observation": "Subjected to standard electrochemical conditions and converted to product 2b, confirming it as an on-cycle intermediate"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "H/D_labeling", "isolation_of_intermediate", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current", "radical_clock"], "evidence_strength": "strong", "notes": "Authors present two mechanistic proposals; favored Pathway-2 is depicted here, in which methoxide adds first to the radical cation and the cyclopropylcarbinyl radical then undergoes homolytic ring opening; the alternative Pathway-1 (not shown in detail) likely invokes cyclopropane ring opening before MeO- attack. A divided-cell experiment, current on/off, cyclic voltammetry, and Faradaic efficiency calculation further support the electrochemical radical-cation pathway. BHT adduct supports an initial alkene radical-cation oxidation step."}
